US07112638B2
113 mL of 1.6 M n-BuLi solution (0.18 mol) was added to a solution of 31.3 g of 2-methyl-4-bromo-thiophene (0.177 mol) in 150 mL of ether at −70° C. under stirring. The resulting solution was kept under stirring at −60 to −70° C. for 30 min and then was added of 22.3 g of 2-methyl-4-formyl-thiophene (0.177 mol) in 100 mL of ether. The mixture was allowed to warm to room temperature, then neutralized with 10% aqueous solution of NH4Cl and washed with water. The organic phase was separated and evaporated. The crude bis(2-methyl-4-thienyl)methanol (or 2,2′-dimethyl-4,4′-dithienyl carbinol) was obtained.

reactant | n-BuLi | 0.18 mol, 1.6 M, 113 mL | [Li]CCCC
reactant | 2-methyl-4-bromo-thiophene | 0.177 mol, 31.3 g | CC=1SC=C(C1)Br | C5H5BrS
reactant | 2-methyl-4-formyl-thiophene | 0.177 mol, 22.3 g | CC=1SC=C(C1)C=O | C6H6OS
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
product | bis(2-methyl-4-thienyl)methanol | CC=1SC=C(C1)C(O)C=1C=C(SC1)C | C11H12OS2
